US09388195B2
F) Production of 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid
A mixture of methyl 7-(phenylcarbonyl)-7-azabicyclo[2.2.1]heptane-1-carboxylate (8.0 g) produced above and concentrated hydrochloric acid (100 mL) was heated under reflux for 24 hr, and concentrated under reduced pressure. To the residue was added water (50 mL), and the mixture was washed twice with ethyl acetate. To the obtained aqueous layer was basified with sodium carbonate, a solution of sodium carbonate (9.80 g) and benzylchlorocarbonate (5.40 mL) in 1,4-dioxane (30 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was washed twice with ethyl acetate, and the aqueous layer was adjusted to pH3 with 2M hydrochloric acid. The organic product was extracted 3 times with ethyl acetate (150 mL), and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (2.45 g) as a yellow solid.

reactant | methyl 7-(phenylcarbonyl)-7-azabicyclo[2.2.1]heptane-1-carboxylate | 8.0 g | C1(=CC=CC=C1)C(=O)N1C2(CCC1CC2)C(=O)OC | C15H17NO3
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid | 2.45 g | C(C1=CC=CC=C1)OC(=O)N1C2(CCC1CC2)C(=O)O | C15H17NO4
